US07034031B2
Step 1) Preparation of (2R)-2-Amino-N-(2,2-diphenyl-ethyl)-3-phenyl-propionamide.
To a stirred solution of N-(tert-butoxycarbonyl)-D-phenylalanine (11.0 g, 41.5 mmol) in chloroform (125 mL) was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (7.95 g, 41.5 mmol) and 1-hydroxybenzotriazole (5.60 g, 41.4 mmol). After 5 minutes, 2,2-diphenylethylamine (7.44 g, 37.7 mmol) was added. The reaction was stirred for 2 hours, diluted with chloroform (100 mL) and washed with aqueous sodium bicarbonate solution. The organic layer was dried (sodium sulfate) and concentrated to afford an off-white solid. Trituration with ether afforded the crude amide. This material was taken up in methylene chloride (100 mL) and treated with trifluoroacetic acid (45 mL, 580 mmol). After stirring for 15 minutes, the reaction was concentrated and the residue was partitioned between ethyl acetate and aqueous sodium bicarbonate. The organic layer was dried (sodium sulfate) and concentrated to afford 12.4 g (111% yield inflated by entrained residual solvent) of product as a colorless gum: 1H NMR (CDCl3) δ 7.34–6.95 (m, 15H), 4.10 (t, J=8.2, 1H), 3.88–3.79 (m, 2H), 3.68–3.61 (m, 1H), 3.49 (br s, 2H), 3.13–3.03 (m, 1H), 2.70–2.59 (m, 1H) ppm.

reactant | N-(tert-butoxycarbonyl)-D-phenylalanine | 41.5 mmol, 11.0 g | C(C)(C)(C)OC(=O)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 41.5 mmol, 7.95 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 41.4 mmol, 5.60 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2,2-diphenylethylamine | 37.7 mmol, 7.44 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | trifluoroacetic acid | 580 mmol, 45 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 125 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | (2R)-2-Amino-N-(2,2-diphenyl-ethyl)-3-phenyl-propionamide | 111% yield | N[C@@H](C(=O)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1 | C23H24N2O
